US05516788
cis-5-Acetyl-4b,5,9b,10-tetrahydro-4b,8,9b-trimethylindeno[1,2-b]indole.
4b,5,9b,10-Tetrahydro-4b,8,9b-trimethylindeno[1,2-b]indole (0.25 g, 1.00 mmol) was dissolved in acetic anhydride (1 cm3) and stirred at room temperature for 16 hours. The reaction mixture was poured into saturated sodium bicarbonate solution (25 cm3) and stirred for 1/2 hour. The mixture was extracted with diethyl ether (3×10 cm3) and the combined organic extracts were washed with brine, dried (Na2SO4) and evaporated. The crude material was purified by flash chromatography on silica gel eluting with 4% ethyl acetate/60°-80° petrol to yield a pale yellow gum. Yield: 0.15 g, 53%. 1H NMR (CDCl3) δ: 7.84 (1H, s), 6.90-7.23 (6H, m), 3.26 (1H, d, J=15.9 Hz), 2.96 (1H, d, J =15.9 Hz), 2.40 (3H, s), 2.31 (3H, s), 1.77 (3H, s), 1.32 (3H, s).

reactant | 4b,5,9b,10-Tetrahydro-4b,8,9b-trimethylindeno[1,2-b]indole | 1.00 mmol, 0.25 g | CC12NC=3C=CC(=CC3C1(CC1=CC=CC=C12)C)C | C18H19N
reactant | sodium bicarbonate | 25 cm3 | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 1 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | cis-5-Acetyl-4b,5,9b,10-tetrahydro-4b,8,9b-trimethylindeno[1,2-b]indole | C(C)(=O)N1[C@]2([C@@](C=3C=C(C=CC13)C)(CC1=CC=CC=C12)C)C | C20H21NO
